US07060827B2
In like manner to the preparation of 2-chloro-5-fluoro-N4-[3-(1H-tetrazol-5-yl)phenyl]-4-pyrimidineamine the reaction of 2,4-dichloro-5-fluoropyrimidine with 6-aminoquinoline gave 2-chloro-5-fluoro-N4-(quinolin-6-yl)-4-pyrimidineamine. 1H NMR (CDCl3): δ 8.02 (dd, 1H, J=2.7 Hz), 8.00 (dd, 1H, J=2.4 Hz), 7.73 (d, 1H, J=9 Hz), 7.68 (dd, 1H, J=2.4 and 8.7 Hz), 7.28 (t, 1H, J=10.5 Hz), 6.42 (d, 1H, J=9.3 Hz); 19F NMR (CDCl3): −44344; LCMS: purity: 91%; MS (m/e): 292 (M+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 6-aminoquinoline | NC=1C=C2C=CC=NC2=CC1 | C9H8N2
product | 2-chloro-5-fluoro-N4-(quinolin-6-yl)-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC=1C=C2C=CC=NC2=CC1)F | C13H8ClFN4
